US08222246B2
e) 6-[3-(3,4-Difluoro-phenyl)-5-hydroxymethyl-isoxazol-4-ylmethoxy]-nicotinic acid methyl ester
6-[3-(3,4-Difluoro-phenyl)-5-formyl-isoxazol-4-ylmethoxy]-nicotinic acid methyl ester (3.50 g, 9.35 mmol) in methanol (125 mL) was treated with sodium borohydride (737 mg, 18.7 mmol) for 30 min at room temperature. Addition of aqueous citric acid solution (10%, 300 mL) and extraction with ethyl acetate afforded the title compound (3.0 g, 85%) as a white solid. MS: m/e=377.2 [M+H]+.

reactant | 6-[3-(3,4-Difluoro-phenyl)-5-formyl-isoxazol-4-ylmethoxy]-nicotinic acid methyl ester | 9.35 mmol, 3.50 g | COC(C1=CN=C(C=C1)OCC=1C(=NOC1C=O)C1=CC(=C(C=C1)F)F)=O | C18H12F2N2O5
reactant | sodium borohydride | 18.7 mmol, 737 mg | [BH4-].[Na+]
reactant | citric acid | 300 mL | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methanol | 125 mL | CO | CH4O
product | 6-[3-(3,4-Difluoro-phenyl)-5-hydroxymethyl-isoxazol-4-ylmethoxy]-nicotinic acid methyl ester | 3.0 g, 85% | COC(C1=CN=C(C=C1)OCC=1C(=NOC1CO)C1=CC(=C(C=C1)F)F)=O | C18H14F2N2O5
